US07981896B2
2-(4-Methoxy-phenyl)-5-methyl-2H-pyrazole-3-carboxylic acid ethyl ester.
Ethyl-2,4-dioxovalerate (0.555 g, 3.5 mmol) and 4-methoxyphenylhydrazine hydrochloride (0.67 g, 3.8 mmol) were mixed in ethanol and heated to 80° C. overnight. The reaction was cooled, diluted with water and extracted with EtOAc. Organic layers were combined and washed with water, 10% HCl, sat. NaHCO3, dried over MgSO4 and concentrated under reduced pressure. The residue was purified on silica gel (20% EtOAc in hexanes to 30% EtOAc in hexanes). Two regioisomers were isolated, the title regioisomer being the more polar (yield 492 mg). LC-MS (C14H16N2O3 calculated 260) m/z 261 (M+H).

reactant | Ethyl-2,4-dioxovalerate | 3.5 mmol, 0.555 g | C(C)OC(C(CC(C)=O)=O)=O | C7H10O4
reactant | 4-methoxyphenylhydrazine hydrochloride | 3.8 mmol, 0.67 g | Cl.COC1=CC=C(C=C1)NN
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-Methoxy-phenyl)-5-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)OC | C14H16N2O3
